US07371748B2
(trans)-2-(4-Hydroxy-cyclohexyl)-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-acetamide
Using 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine and (4-hydroxy-cyclohexyl)-acetic acid, the title compound was prepared in the same manner as described for N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-(tetrahydro-pyran-4-yl)-acetamide and obtained as white crystals (25% yield). Mp 120-145° C., MS: m/e=405(M+H+).

reactant | 4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-ylamine | COC1=CC=C(C2=C1N=C(S2)N)C2CCOCC2 | C13H16N2O2S
reactant | (4-hydroxy-cyclohexyl)-acetic acid | OC1CCC(CC1)CC(=O)O | C8H14O3
reactant | N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-2-(tetrahydro-pyran-4-yl)-acetamide | COC1=CC=C(C2=C1N=C(S2)NC(CC2CCOCC2)=O)C2CCOCC2 | C20H26N2O4S
product | (trans)-2-(4-Hydroxy-cyclohexyl)-N-[4-methoxy-7-(tetrahydro-pyran-4-yl)-benzothiazol-2-yl]-acetamide | O[C@@H]1CC[C@H](CC1)CC(=O)NC=1SC2=C(N1)C(=CC=C2C2CCOCC2)OC | C21H28N2O4S
